US08455613B2
(9H-fluoren-9-yl)methyl 80-(4-bromophenoxy)-75-oxo-3,6,9,12,15,18,21,24,27,30,33,36,39,42,45,48,51,54,57,60,63,66,69,72-tetracosaoxa-76-azaoctacontylcarbamate.
4-(4-bromophenoxy)butan-1-amine (21.5 mg, 0.09 mmol), 1-(9H-fluoren-9-yl)-3-oxo-2,7,10,13,16,19,22,25,28,31,34,37,40,43,46,49,52,55,58,61,64,67,70,73,76-pentacosaoxa-4-azanonaheptacontan-79-oic acid (100 mg, 0.073 mmol), and N,N′-dimethylaminopyridine (5.4 mg, 0.044 mmol) were combined in a round bottom flask flushed with nitrogen and charged with a Teflon stirbar. Next 5 mL of anhydrous dichloromethane was added via syringe. N,N-Dicyclohexylcarbodiimide (23 mg, 0.11 mmol) is transferred to a second flask flushed with nitrogen and charged with a stirbar and 5 mL of anhydrous dichloromethane is added via syringe. While stirring the first solution, add the dicyclohexylcarbodiimide solution slowly, dropwise. The reaction is then allowed to proceed overnight. The following day solids from the reaction were filtered off and the filtrate was concentrated onto silica. Column chromatography in methanol and dichloromethane gave a clear thick oil (83.3 mg, 71% yield).

reactant | 4-(4-bromophenoxy)butan-1-amine | 0.09 mmol, 21.5 mg | BrC1=CC=C(OCCCCN)C=C1 | C10H14BrNO
reactant | 1-(9H-fluoren-9-yl)-3-oxo-2,7,10,13,16,19,22,25,28,31,34,37,40,43,46,49,52,55,58,61,64,67,70,73,76-pentacosaoxa-4-azanonaheptacontan-79-oic acid | 0.073 mmol, 100 mg | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(NCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCC(=O)O)=O | C66H113NO28
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | (9H-fluoren-9-yl)methyl 80-(4-bromophenoxy)-75-oxo-3,6,9,12,15,18,21,24,27,30,33,36,39,42,45,48,51,54,57,60,63,66,69,72-tetracosaoxa-76-azaoctacontylcarbamate | 83.3 mg, 71% yield | BrC1=CC=C(OCCCCNC(CCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCNC(OCC2C3=CC=CC=C3C=3C=CC=CC23)=O)=O)C=C1 | C76H125BrN2O28
